US04510307
In 200 ml of chloroform was dissolved 11.7 g of 1-(2-ethoxy-2-phenylethyl)piperazine, and then 6.9 g of anhydrous potassium carbonate was added thereto. To the solution thus obtained was added dropwise 100 ml of a chloroform solution containing 12.2 g of 3,4-dihydro-4-oxo-6-quinazolinesulfonyl chloride under cooling with ice. After the dropwise addition of the chloroform solution, the mixed solution was stirred at a temperature of 20° C. to 25° C. for 15 hours, and then added with 50 ml of water. After the pH of the reaction solution was adjusted to 7, the chloroform layer was separated therefrom and the aqueous layer was further extracted with chloroform and the chloroform layer obtained was combined with the one previously separated. Then the chloroform layer was washed with water, dried with Glauber's salt and condensed under reduced pressure to give an oily substance. To this oily substance were added 50 ml of ethanol and 10 ml of conc. hydrochloric acid to form a solution, and the solution was condensed to dryness and the residue was recrystallized from ethanol and then from ether to give 18.2 g of 1-(3,4-dihydro-4-oxo-6-quinazolinesulfonyl)-4-(2-ethoxy-2-phenylethyl)piperazine hydrochloride having a melting point (decomposition) of 249° C. to 250° C. in a yield of 76%.

reactant | 1-(2-ethoxy-2-phenylethyl)piperazine | 11.7 g | C(C)OC(CN1CCNCC1)C1=CC=CC=C1 | C14H22N2O
reactant | potassium carbonate | 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dihydro-4-oxo-6-quinazolinesulfonyl chloride | 12.2 g | O=C1NC=NC2=CC=C(C=C12)S(=O)(=O)Cl | C8H5ClN2O3S
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 1-(3,4-dihydro-4-oxo-6-quinazolinesulfonyl)-4-(2-ethoxy-2-phenylethyl)piperazine hydrochloride | 18.2 g, yield of 76% | Cl.O=C1NC=NC2=CC=C(C=C12)S(=O)(=O)N1CCN(CC1)CC(C1=CC=CC=C1)OCC | InChI=1S/C22H26N4O4S.ClH/c1-2-30-21(17-6-4-3-5-7-17)15-25-10-12-26(13-11-25)31(28,29)18-8-9-20-19(14-18)22(27)24-16-23-20;/h3-9,14,16,21H,2,10-13,15H2,1H3,(H,23,24,27);1H
